US06207857B1
a) 3-Phenyl-propionic acid 3-(4-tert-butyl-phenyl)-2-methyl-propenyl ester
A solution of 65.8 g acetic acid 3-(4-tert-butyl-phenyl)-2-methyl-propenyl ester in 200 ml of THF was cooled to −70° C. A solution of 42.3 g potassium-tert-butoxide in 200 ml of THF was added at −70° C. during 20 min. and the resulting reaction mixture was stirred for 90 min. at the same temperature. 53.5 g 3-phenyl-propionyl chloride was dropped in and the reaction mixture was stirred for another 3 hours at −70° C. Then the reaction mixture was diluted with ether, washed with saturated NaHCO3 and brine. The organic phase was dried, filtered and evaporated to dryness. The residue was thin-layer distilled to yield 75.0 g of a yellow oil.

reactant | acetic acid 3-(4-tert-butyl-phenyl)-2-methyl-propenyl ester | 65.8 g | C(C)(C)(C)C1=CC=C(C=C1)CC(=COC(C)=O)C | C16H22O2
reactant | potassium-tert-butoxide | 42.3 g | CC(C)([O-])C.[K+]
reactant | 3-phenyl-propionyl chloride | 53.5 g | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 3-Phenyl-propionic acid 3-(4-tert-butyl-phenyl)-2-methyl-propenyl ester | 75.0 g | C(C)(C)(C)C1=CC=C(C=C1)CC(=COC(CCC1=CC=CC=C1)=O)C | C23H28O2
